* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise netattrib.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
*============== Begin SPICE netlist of main design ============
F1 one unconnected_pin-3 <No valid value attribute found>
U300 one 1 7404
U200 one netattrib 7404
U100 unconnected_pin-2 unconnected_pin-1 one 7400
.end
